US05476933
Preparation of 7-Methoxy-4-methylquinoline-5,8-dione (107).
In a 50 mL round bottom flask 2-bromo-6-methoxy-1,4-benzoquinone (282 mg, 1.3 mmol) was dissolved in dry chlorobenzene (28 mL) along with 1-(tert-butyldimethylsilyloxy)-1-aza-1,3-pentadiene (130 mg, 0.65 mmol). The solution was stirred and heated to reflux for 4 days under N2. The dark reaction was allowed to cool and was added to a silica gel column (2.5×9 cm). The column was eluted with EtOAc/hexane (5:1) then EtOAc and finally ethanol. The solvent was removed, benzene was added, and the resulting mixture was heated and filtered to remove insoluble impurities. Evaporation of the filtrate gave 62 mg, 47% of the crude product. 1H NMR (CDCl3) δ2.76 (s, 3H), 3.93 (s, 3H), 6.20 (s, 1H), 7.52 (d, J=8 Hz, 8.30 (d, J=8 Hz, 1H).

reactant | 2-bromo-6-methoxy-1,4-benzoquinone | 1.3 mmol, 282 mg | BrC=1C(C(=CC(C1)=O)OC)=O | C7H5BrO3
reactant | 1-(tert-butyldimethylsilyloxy)-1-aza-1,3-pentadiene | 0.65 mmol, 130 mg | [Si](C)(C)(C(C)(C)C)ON=CC=CC | C10H21NOSi
solvent | chlorobenzene | 28 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 7-Methoxy-4-methylquinoline-5,8-dione | 62 mg, 47% | COC1=CC(C=2C(=CC=NC2C1=O)C)=O | C11H9NO3
